US04590195
4-(2,3-Dichlorophenyl)-3-ethoxycarbonyl-2-[(N-formyl)aminoethoxy methyl]-5-methoxycarbonyl-6-methyl-1,4-dihydropyridine
Formic acetic anhydride (15 ml; prepared by heating a mixture of formic acid (5 ml) and acetic anhydride (10 ml) at 50°-60° C. for 1 hour) was added over 10 minutes to a stirred, ice-cooled solution of 2-(2-aminoethoxymethyl)-4-(2,3-dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridine (4.4 g) in tetrahydrofuran (30 ml). The mixture was stirred at room temperature for 1.5 hours and then evaporated. The residue was dissolved in dichloromethane and the solution washed with 10% aqueous sodium carbonate solution, dried (Na2SO4), and evaporated. The residual solid was collected, washed with diethyl ether and dried to give the title compound as a hemihydrate (4.0 g), m.p. 178°-181° C. Found: C, 52.69; H, 5.05; N, 6.06. C21H24Cl2N2O6.0.5H2O requires C, 52.51; H, 5.25; N, 5.83%.

reactant | Formic acetic anhydride | C(C)(=O)OC=O | C3H4O3
reactant | formic acid | 5 ml | C(=O)O | CH2O2
reactant | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2-(2-aminoethoxymethyl)-4-(2,3-dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridine | 4.4 g | NCCOCC=1NC(=C(C(C1C(=O)OCC)C1=C(C(=CC=C1)Cl)Cl)C(=O)OC)C | C20H24Cl2N2O5
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 4-(2,3-Dichlorophenyl)-3-ethoxycarbonyl-2-[(N-formyl)aminoethoxy methyl]-5-methoxycarbonyl-6-methyl-1,4-dihydropyridine | ClC1=C(C=CC=C1Cl)C1C(=C(NC(=C1C(=O)OC)C)COCCNC=O)C(=O)OCC | C21H24Cl2N2O6
